US05665730
7. 8-(6-Methyl-2-nitrobenzylamino)-2,3-dimethylimidazo[1,2-a]pyridine
Sodium iodide (15.0 g) and sodium carbonate (31.0 g) are added to a solution of 8-amino-2,3-dimethylimidazo[1,2-a]pyridine (14.7 g) and 6-methyl-2-nitrobenzylchloride (18.6 g) in acetone (100 ml) at RT and are heated to reflux for 6 h. After cooling to RT and evaporation of the solvent, the residue is dissolved in a mixture of ethyl acetate (200 ml) and water (200 ml), and the organic phase is separated off. After three further extractions with ethyl acetate (100 ml) the combined organic layers are dried over magnesium sulfate and concentrated to a volume of 80 ml. 12.1 g of the title compound crystallize as a faintly yellow solid. The mother liquor is evaporated and the residue is purified by chromatography on silica gel (toluene/dioxane=6:1 as eluent) to yield additional 14 g of crystalline material. After recrystallization of both fractions from ethyl acetate, 21.5 g (76%) of the title compound of m.p. 160°-162° C. are isolated.

reactant | Sodium iodide | 15.0 g | [I-].[Na+]
reactant | sodium carbonate | 31.0 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 8-amino-2,3-dimethylimidazo[1,2-a]pyridine | 14.7 g | NC=1C=2N(C=CC1)C(=C(N2)C)C | C9H11N3
reactant | 6-methyl-2-nitrobenzylchloride | 18.6 g | CC1=CC=CC(=C1CCl)[N+](=O)[O-] | C8H8ClNO2
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 8-(6-Methyl-2-nitrobenzylamino)-2,3-dimethylimidazo[1,2-a]pyridine | 14 g | CC1=CC=CC(=C1CNC=1C=2N(C=CC1)C(=C(N2)C)C)[N+](=O)[O-] | C17H18N4O2
